US04925879
A solution of 1-[1-(4-chlorophenyl)cyclobutyl]-3-ethyl-1-iminopentan-3-ol (1.6 g) in dry tetrahydrofuran (20 ml) was treated under nitrogen with boranetetrahydrofuran complex (1M solution in tetrahydrofuran 10 ml) and the mixture was heated under reflux for 24 hours. The mixture was cooled in ice and water and then 2N sodium hydroxide solution were added. The resulting mixture was extracted with ether and the extracts were washed, dried and evaporated to give 1-amino-1-[1-(4-chlorophenyl)cyclobutyl]-3-ethylpentan-3-ol which was then converted into the corresponding dimethylamino compound by heating a mixture of the primary amine (1.5 g), 98% formic acid (4 ml) and 37-40% aqueous formaldehyde (2 ml) at 90°-95° C. for 16 hours. The reaction mixture was cooled and poured into a mixture of 16N sodium hydroxide solution (7 ml) and ice. The mixture was extracted with ether and the extract washed, dried and evaporated to give a residue which was dissolved in ether. Addition of a solution of maleic acid in ether gave 1-[1-(4-chlorophenyl)cyclobutyl-1-dimethylamino-3-ethylpentan-3-ol maleate (m.p. 110°-111° C.).

reactant | 1-[1-(4-chlorophenyl)cyclobutyl]-3-ethyl-1-iminopentan-3-ol | 1.6 g | ClC1=CC=C(C=C1)C1(CCC1)C(CC(CC)(O)CC)=N | C17H24ClNO
reactant | water | O | H2O
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-amino-1-[1-(4-chlorophenyl)cyclobutyl]-3-ethylpentan-3-ol | NC(CC(CC)(O)CC)C1(CCC1)C1=CC=C(C=C1)Cl | C17H26ClNO
